US05622976
To a solution of 5-(4-cyanophenyl)-3-ethoxycarbonyl-1,2,4-oxadiazole (5.0 g) in methanol (50 ml)--tetrahydrofuran (50 ml) was added sodium borohydride (0.93 g) at 0° C. After stirring at 5°-10° C. for 1 hour, the mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was recrystallized from diethyl ether to give 5-(4-cyanophenyl)-3-hydroxymethyl-1,2,4-oxadiazole (4.0 g).

reactant | 5-(4-cyanophenyl)-3-ethoxycarbonyl-1,2,4-oxadiazole | 5.0 g | C(#N)C1=CC=C(C=C1)C1=NC(=NO1)C(=O)OCC | C12H9N3O3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.93 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 5-(4-cyanophenyl)-3-hydroxymethyl-1,2,4-oxadiazole | 4.0 g | C(#N)C1=CC=C(C=C1)C1=NC(=NO1)CO | C10H7N3O2
